US04052455
Reaction of benzamidine with 4-nitrostyrylsulfonyl chloride according to the above procedure affords N-(4-NITROSTYRYL-SULFONYL)BENZAMIDINE, m.p. 173°-175° C., by triturating with methanol.

reactant | benzamidine | C(C1=CC=CC=C1)(=N)N | C7H8N2
reactant | 4-nitrostyrylsulfonyl chloride | [N+](=O)([O-])C1=CC=C(C=CS(=O)(=O)Cl)C=C1 | C8H6ClNO4S
product | N-(4-NITROSTYRYL-SULFONYL)BENZAMIDINE | [N+](=O)([O-])C1=CC=C(C=CS(=O)(=O)NC(C2=CC=CC=C2)=N)C=C1 | C15H13N3O4S
